US08236826B2
Production of N-(6-{4-[4-((1S,2S)-2-hydroxy-cyclohexyl)piperazine-1-carbonyl]phenoxy}pyridin-3-yl)-4-trifluoromethylbenzamide
To a solution of N-{6-[4-(piperazine-1-carbonyl)phenoxy]-pyridin-3-yl}-4-trifluoromethyl-benzamide (430 mg, 0.91 mmol) in methanol was added 1,2-epoxycyclohexane (180 mg, 1.83 mmol), and the resulting solution was stirred for 1 day under reflux. The resulting reaction solution was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:methanol=35:1), and then ethyl acetate was added. The precipitated white powder was filtered off and washed with ethyl acetate, to thereby yield 284 mg of the title compound.

reactant | N-{6-[4-(piperazine-1-carbonyl)phenoxy]-pyridin-3-yl}-4-trifluoromethyl-benzamide | 0.91 mmol, 430 mg | N1(CCNCC1)C(=O)C1=CC=C(OC2=CC=C(C=N2)NC(C2=CC=C(C=C2)C(F)(F)F)=O)C=C1 | C24H21F3N4O3
reactant | 1,2-epoxycyclohexane | 1.83 mmol, 180 mg | O1C2C1CCCC2 | C6H10O
solvent | methanol | CO | CH4O
product | N-(6-{4-[4-((1S,2S)-2-hydroxy-cyclohexyl)piperazine-1-carbonyl]phenoxy}pyridin-3-yl)-4-trifluoromethylbenzamide | O[C@@H]1[C@H](CCCC1)N1CCN(CC1)C(=O)C1=CC=C(OC2=CC=C(C=N2)NC(C2=CC=C(C=C2)C(F)(F)F)=O)C=C1 | C30H31F3N4O4
